US09376433B2
A mixture of 5-fluoro-2-p-tolylethynyl-benzoic acid methyl ester (359 mg, 1.34 mmol) and polyphosphoric acid (4 g) is heated to 80° C. and stirred at this temperature for 20 hours. The reaction mixture is allowed to cool to room temperature and water is added. The mixture is partitioned between water and dichloromethane. The organic phase is dried over sodium sulfate and evaporated. The residue is chromatographed on a silica gel column with cyclohexane/dichloromethane as eluent to afford 7-fluoro-3-p-tolyl-isochromen-1-one as off-white solid; HPLC/MS 2.16 min (A), [M+H] 255.

reactant | 5-fluoro-2-p-tolylethynyl-benzoic acid methyl ester | 1.34 mmol, 359 mg | COC(C1=C(C=CC(=C1)F)C#CC1=CC=C(C=C1)C)=O | C17H13FO2
solvent | water | O | H2O
product | 7-fluoro-3-p-tolyl-isochromen-1-one | FC1=CC=C2C=C(OC(C2=C1)=O)C1=CC=C(C=C1)C | C16H11FO2
